US06825360B1
(a) 3-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacryloyl chloride
3.5 g (10 mmol) of 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacrylic acid and 50 ml of dichloromethane are introduced into a round-bottomed flask and 2 ml (10 mmol) of dicylcohexylamine are added. The mixture is stirred at room temperature for 10 minutes and 729 μl (10 mmol) of thionyl chloride are then introduced with stirring for 15 minutes. The reaction medium is evaporated to dryness, the residue is taken up in ethyl ether, the dicyclohexylamine salt is filtered off and the filtrate is evaporated. 3.7 g (100%) of the crude acid chloride are collected, which will be used in its current state for the rest of the synthesis.

reactant | 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacrylic acid | 10 mmol, 3.5 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=CC1)C(C(=O)O)=C | C24H28O2
reactant | dicylcohexylamine | 10 mmol, 2 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | thionyl chloride | 10 mmol, 729 μl | S(=O)(Cl)Cl | Cl2OS
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacryloyl chloride | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=CC1)C=CC(=O)Cl | C24H27ClO
